US07592457B2
3-(3-hydroxy-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 13, using a 3-(3-benzyloxy-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione (0.26 g, 0.60 mmol) and BBr3 (1.20 mL, 1.0 M dichloromethane solution). After normal workup, the objective compound (0.18 g, 90%) was obtained as yellow solid by a flash column chromatography (n-hexane:EtOAc=5:1): 1H NMR (200 MHz, CDCl3+DMSO-d6) δ 1.62 (s, 3H, CH3), 6.57-6.71 (m, 3H, ArH), 6.98-7.12 (m, 3H, ArH), 9.17 (s, 1H, OH), 11.07 (s, 1H, NH); m.p. 248° C. (decomp.); MS(EI) m/e 335 [M+], 148, 91.

reactant | 3-(3-benzyloxy-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 0.60 mmol, 0.26 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C23H17Cl2NO3
reactant | BBr3 | 1.0 M, 1.20 mL | B(Br)(Br)Br | BBr3
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-hydroxy-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 0.18 g, 90% | OC=1C=C(C=CC1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C16H11Cl2NO3
